US06852863B2
2-(4-{[(3-Carboxymethoxy-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-2-methyl-propionic acid.
To a solution of 2-(4-{[(3-carboxymethoxy-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-2-methyl-propionic acid ethyl ester (83 mg, 0.157 mmol) in THF (10 mL) was added water (1 mL) and LiOH.H2O (66 mg, 1.58 mmol). The reaction was heated at reflux for 24 h. Additional LiOH.H2O (66 mg, 1.58 mmol) in water (2 mL) was added and the reaction was heated at reflux for 30 h. The mixture was concentrated in vacuo and to the residue was added THF (3 mL) and water (1.5 mL). The reaction was heated at reflux for 24 h and was cooled to room temperature. The solution was diluted with water and the pH was adjusted to about 5 by addition of 1N HCl. Sodium chloride was added and the aqueous solution was washed with EtOAc (3×). The combined organic solutions were dried (MgSO4), filtered, and concentrated to provide the title compound (74 mg). 1H NMR (400 MHz, CDCl3) δ 8.94 (s, 1H), 8.73 (s, 1H), 8.13 (d, 1H), 7.55 (m, 1H), 7.23 (d, 2H), 7.11 (m, 3H), 6.78 (d, 1H), 6.73 (d, 1H), 6.68 (s, 1H), 4.90 (s, 2H), 4.39 (s, 2H), 3.30 (s, 2H), 1.50 (s, 6H); MS 497 (M−1).

reactant | 2-(4-{[(3-carboxymethoxy-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-2-methyl-propionic acid ethyl ester | 0.157 mmol, 83 mg | C(C)OC(C(C)(C)C1=CC=C(C=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC(=CC=C1)OCC(=O)O)=O | C27H30N2O7S
reactant | LiOH.H2O | 1.58 mmol, 66 mg | O[Li].O
reactant | LiOH.H2O | 1.58 mmol, 66 mg | O[Li].O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 2-(4-{[(3-Carboxymethoxy-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-2-methyl-propionic acid | 74 mg | C(=O)(O)COC=1C=C(CN(S(=O)(=O)C=2C=NC=CC2)CC2=CC=C(C=C2)C(C(=O)O)(C)C)C=CC1 | C25H26N2O7S
